US08865726B2
To a solution of (S)-2-amino-3-methylbutan-1-ol (3.3 g, 32 mmol) in DMF was added 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine (2.5 g, 11 mmol) and N-ethyl-N-isopropylpropan-2-amine (4.2 g, 32 mmol) and the reaction was heated to 100° C. for 4 hours. The reaction mixture was poured into EtOAc and washed with water and brine, dried over magnesium sulfate and concentrated in vacuo to yield (S)-2-(3-bromopyrazolo[1,5-a]pyrimidin-5-ylamino)-3-methylbutan-1-ol (3.2 g, 99%). LCMS (APCI+) m/z 299, 301 [M+H]+.

reactant | (S)-2-amino-3-methylbutan-1-ol | 32 mmol, 3.3 g | N[C@H](CO)C(C)C | C5H13NO
reactant | 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine | 11 mmol, 2.5 g | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | N-ethyl-N-isopropylpropan-2-amine | 32 mmol, 4.2 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-2-(3-bromopyrazolo[1,5-a]pyrimidin-5-ylamino)-3-methylbutan-1-ol | 3.2 g, 99% | BrC=1C=NN2C1N=C(C=C2)N[C@H](CO)C(C)C | C11H15BrN4O
